US05371176
Copolymer of Caster Oil/ε-Caprolactone/Glycolide @ 11/80/9 Initial Parts by Weight
A flame dried, 250 ml, round bottom single neck flask is charged with 10.0 gm USP grade castor oil, 72.0 gm (0.63 mole) of ε-caprolactone, 8.0 gm (0.07 mole) of glycolide, and 0.0707 milliliters of stannous octoate (0.33 molar in toluene). The flask is fitted with a flame dried mechanical stirrer. The reactor is purged with nitrogen three times before venting with nitrogen. The reaction mixture is heated to 160° C. and maintained at this temperature for about 24 hours. The copolymer has an inherent viscosity of 0.47 dl/g in hexafluoroisopropanol (HFIP) at 25° C. The copolymer has melting point of 36°41° C.

reactant | ε-caprolactone | 0.63 mole, 72.0 gm | C1(CCCCCO1)=O | C6H10O2
reactant | glycolide | 0.07 mole, 8.0 gm | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | stannous octoate | 0.33 molar, 0.0707 milliliters | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
product | ε-Caprolactone Glycolide | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1 | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
